US07888349B2
A solution of tert-butyl 3-aminopropylcarbamate (15.7 g, 90.2 mmol) in dichloromethane (50 mL) was added dropwise over 30 minutes to a solution of 4-chloro-3-nitro[1,5]naphthyridine (18.0 g, 85.9 mmol) and triethylamine (15.6 mL, 112 mmol) in dichloromethane (235 mL) at room temperature. The reaction mixture was stirred for 2.5 hours and then concentrated under reduced pressure to afford an orange solid. Water (300 mL) was added and the mixture was stirred for one hour. The solid was isolated by filtration, washed with water (3×50 mL), and dried under vacuum at 70° C. to afford 29.5 g of tert-butyl 3-[(3-nitro[1,5]naphthyridin-4-yl)amino]propylcarbamate as a yellow solid.

reactant | tert-butyl 3-aminopropylcarbamate | 90.2 mmol, 15.7 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | 4-chloro-3-nitro[1,5]naphthyridine | 85.9 mmol, 18.0 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | triethylamine | 112 mmol, 15.6 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 300 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 235 mL | ClCCl | CH2Cl2
product | tert-butyl 3-[(3-nitro[1,5]naphthyridin-4-yl)amino]propylcarbamate | 29.5 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1NCCCNC(OC(C)(C)C)=O | C16H21N5O4
